US04894386
A mixture of methyl 4-[5-(2-carboxypropyl)-1-methylindol-3-ylmethyl]-3-methoxybenzoate (0.7 g), 4-dimethylaminopyridine (0.249 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.391 g) and pentylamine (0.154 g) was dissolved in methylene chloride (15 ml), and stirred for 18 hr, under an atmosphere of nitrogen. Methylene chloride (50 ml) was added, the solution was washed with 1M hydrochloric acid and brine, and dried (MgSO4). The solvent was evaporated and the residual oil purified by flash chromatography, eluting with 40:50:5 hexane:methylene chloride:ethyl acetate, to give a foam which was crystallized from a mixture of methylene chloride and hexane to give methyl 3-methoxy-4-[1-methyl-5-[2-(pentylcarbamoyl)propyl]indol-3-ylmethyl]benzoate (0.66 g, 80%) as white crystals; mp 128°-130°; partial NMR (250 MHz, DMSO-d6): 0.78(t, J=7 Hz, 3H, CH2CH3), 0.95(d, J=6.4 Hz, 3H, CHCH3), 1.05-1.25[m, 6H, (CH2)3 ], 2.5(m, 2H), 2.9(m, 3H), 3.68(s, 3H), 3.83(s, 3H), 3.92(s, 3H), 3.99(s, 2H, ArCH2Ar'), 7.61(br t, 1H, NHCO).

reactant | methyl 4-[5-(2-carboxypropyl)-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 0.7 g | C(=O)(O)C(CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C23H25NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.391 g | Cl.CN(CCCN=C=NCC)C
reactant | pentylamine | 0.154 g | C(CCCC)N | C5H13N
catalyst | 4-dimethylaminopyridine | 0.249 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-methoxy-4-[1-methyl-5-[2-(pentylcarbamoyl)propyl]indol-3-ylmethyl]benzoate | 0.66 g, 80% | COC=1C=C(C(=O)OC)C=CC1CC1=CN(C2=CC=C(C=C12)CC(C)C(NCCCCC)=O)C | C28H36N2O4
